US07435831B2
To a solution of 2,8-diaza-spiro[4.5]decan-1-one hydrochloride (763 mg, 4 mmol, 1 equiv) in 10 mL of 1:1 THF and water was added (Boc)2O (960 mg, 1.1 equiv). The pH of the solution was adjusted to ˜10 by addition of K2CO3. Upon completion, the mixture was extraction with EtOAc. Organic layer was dried over sodium sulfate, filtered, and evaporated to give 1-oxo-2,8-diaza-spiro[4,5]decane-8-carboxylic acid tert-butyl ester.

reactant | 2,8-diaza-spiro[4.5]decan-1-one hydrochloride | 4 mmol, 763 mg, 1 equiv | Cl.C1(NCCC12CCNCC2)=O
reactant | (Boc)2O | 960 mg, 1.1 equiv | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 1-oxo-2,8-diaza-spiro[4,5]decane-8-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC2(CCNC2=O)CC1 | C13H22N2O3
